US07087605B2
7-Cyclobutyl-2-cyclopropyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 350 mg (1.28 mmol) crude N-[1-(3-cyclopropyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclobutanecarboxamide, 200 mg (1.28 mmol) phosphoric trichloride are stirred at reflux for 3 hours, proportionate amounts of the solvents are used.

reactant | N-[1-(3-cyclopropyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclobutanecarboxamide | 1.28 mmol, 350 mg | C1(CC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCC1 | C14H20N4O2
reactant | phosphoric trichloride | 1.28 mmol, 200 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Cyclobutyl-2-cyclopropyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C1(CCC1)C1=NC(=C2C(NC(=NN21)C2CC2)=O)CC | C14H18N4O
